US09216972B2
To 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbaldehyde (Intermediate I-12B, 0.38 g, 1.576 mmol) in ethanol (5 mL) were sequentially added hydroxylamine hydrochloride (0.131 g, 1.891 mmol) and sodium acetate (0.155 g, 1.891 mmol) at room temperature. The reaction mixture was heated at 80° C. for 20 min. The reaction mixture was concentrated and water (10 ml) was added. A pale yellow solid separated out from solution, and was filtered, washed with water (2×5 mL) and dried overnight to yield 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbaldehyde oxime (0.35 g, 1.366 mmol, 87% yield) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.74 (br. s., 1H) 8.32 (s, 1H) 7.62-7.67 (m, 2H) 7.47-7.57 (m, 3H).

reactant | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbaldehyde | 1.576 mmol, 0.38 g | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C=O | C11H6F3NO2
reactant | hydroxylamine hydrochloride | 1.891 mmol, 0.131 g | Cl.NO
reactant | sodium acetate | 1.891 mmol, 0.155 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbaldehyde oxime | 1.366 mmol, 0.35 g, 87% yield | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C=NO | C11H7F3N2O2
